US04596870
1-(2,4-Dichlorophenoxy)methyl-5-chloropyrimidin-2-one
The title compound was prepared in a manner similar to that described in Example 6 by the addition of a solution of 1-chloromethoxy-2,4-dichlorobenzene (see preparation 6) (5 mmol) in dichloromethane (25 ml) to a solution of 5-chloropyrimidin-2-one (5 mmol) and triethylamine (5 mmol) in dichloromethane (75 ml). The mixture was stirred at room temperature for 2 h and at 40° C. for 7 h before being worked up as above; yield 1.30 g (80%), isomer ratio 3:1. The title compound crystallized from DMSO: m.p. 170° C. 1H NMR (TFA): δ 6.10 (CH2),, 6.9-7.4 (Ph), 9.0-9.2 (H-4, H-6). IR (KBr): 1680 cm-1 (CO). MS (70 eV, m/z (% rel. int.)): 304 (l,M), 162 (3), 145 (35), 143 (100), 116 (28 ).

reactant | 1-chloromethoxy-2,4-dichlorobenzene | 5 mmol | ClCOC1=C(C=C(C=C1)Cl)Cl | C7H5Cl3O
reactant | 5-chloropyrimidin-2-one | 5 mmol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-(2,4-Dichlorophenoxy)methyl-5-chloropyrimidin-2-one | ClC1=C(OCN2C(N=CC(=C2)Cl)=O)C=CC(=C1)Cl | C11H7Cl3N2O2
